US06436923B1
B. 2-(3-Hydroxyphenyl)-N-naphthylacetamide
To a solution of 3-hydroxyphenylacetic acid (3.04 g, 20 mmol) in dimethylformamide (30 mL) and 1-hydroxybenzotriazole (3.24 g, 24 mmol) at 0° C. under nitrogen was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (4.60 g, 24 mmol). After 30 minutes, 1-aminonaphthyline (2.86 g, 20 mmol) was added, and the mixture was stirred overnight at room temperature. The reaction was quenched with 5% hydrochloride and extracted with ethyl acetate. The organic layer was washed with a 10% sodium carbonate solution, washed with brine, dried over MgSO4, filtered, and concentrated to provide the title compound (5.239 g, 94% yield): 1H NMR (DMSO-d6) 9.66 (br, 1H), 9.04 (s, 1H),7.96 (dd, 1H), 7.85 (dd, 1H), 7.74 (dd, 1H), 7.68 (d, 1H), 7.18-7.49 (m, 3H), 7.16 (t, 1H), 6.92 (m 2H), 6.73 (d, 1H), 3.76 (s, 2H); ES-MS (m/z) 278 [M+H]+.

reactant | 3-hydroxyphenylacetic acid | 20 mmol, 3.04 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | 1-hydroxybenzotriazole | 24 mmol, 3.24 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 24 mmol, 4.60 g | Cl.CN(CCCN=C=NCC)C
reactant | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-(3-Hydroxyphenyl)-N-naphthylacetamide | 5.239 g, 94% yield | OC=1C=C(C=CC1)CC(=O)NC1=CC=CC2=CC=CC=C12 | C18H15NO2
